US09260427B2
Prepared using General Procedure 7. To a stirring solution of (S)-2-(((benzyloxy)carbonyl)amino)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoic acid INT-22 (2082 mg, 2.75 mmol), methyl (S)-pyrrolidine-3-carboxlate HCl (545 mg, 3.30 mmol), and DIEA (1523 μl, 8.25 mmol) in DMF (6 mL) cooled to 0° C. was slowly added a solution of HATU (1254 mg, 3.30 mmol) in DMF (5 mL) in a drop-wise fashion The reaction mixture was allowed to warm slowly and stirring continued for 4 h. The reaction mixture was poured onto ice-water and the solid was filtered. The solid was dissolved in EA (50 mL), dried over MgSO4, evaporated and purified by chromatography (EA/hexane) to provide 932 mg (52%) of methyl (S)-1-((S)-2-(((benzyloxy)carbonyl)amino)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoyl)pyrrolidine-3-carboxylate. LCMS-ESI (m/z) calculated for C40H46N4O6: 678.3. found 679.3 [M+H]+, tR=4.50 min (Method 16).

reactant | (S)-2-(((benzyloxy)carbonyl)amino)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoic acid | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)C1=NC=C(C=N1)C1=CC=C(C=C1)OCCCCCCC | C34H37N3O5
reactant | methyl (S)-pyrrolidine-3-carboxlate HCl | 3.30 mmol, 545 mg | Cl.N1C[C@H](CC1)C(=O)OC
reactant | DIEA | 8.25 mmol, 1523 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 3.30 mmol, 1254 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | methyl (S)-1-((S)-2-(((benzyloxy)carbonyl)amino)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoyl)pyrrolidine-3-carboxylate | 932 mg, 52% | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)N1C[C@H](CC1)C(=O)OC)CC1=CC=C(C=C1)C1=NC=C(C=N1)C1=CC=C(C=C1)OCCCCCCC | C40H46N4O6
